US08283353B2
7-butyl-4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one (0.27 g), 6N hydrochloric acid (2 mL) and tetrahydrofuran (10 mL) was stirred at 40° C. for 3 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as colorless crystals (0.21 g, 83%).

reactant | 7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.27 g | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CCC1(OCCO1)CC2)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O | C32H34N6O5
reactant | hydrochloric acid | 6N, 2 mL | Cl | ClH
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-butyl-4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.21 g, 83% | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CCC(CC2)=O)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O | C30H30N6O4
